US05914328
59a. 3-((1-BOC-2-(S)-azetidinyl)methoxy)-6-methylpyridine
A 3.74 g (20 mmol) sample of 1-t-butyloxycarbonyl-2-(S)-azetidinemethanol, prepared as in Example 7b above, and 3.27 g (30 mmol) of 2-methyl-5hydroxypyridine were reacted with triphenylphosphine and DEAD (30 mmol each) in 100 mL of THF according to the procedure of Example 14a, to give the title compound.

reactant | 1-t-butyloxycarbonyl-2-(S)-azetidinemethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
reactant | 2-methyl-5hydroxypyridine | 30 mmol, 3.27 g | CC1=NC=C(C=C1)O | C6H7NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 30 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-((1-BOC-2-(S)-azetidinyl)methoxy)-6-methylpyridine | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=CC1)C | C15H22N2O3
